US07141559B2
N-Boc-N-methyl-4-bromoaniline
5.0 mmol of 4-bromoaniline (0.86 g) is dissolved in 10 mL of THF; 1.09 g (5.0 mmol) of di-tert-butyl dicarbonate is added, and the resultant solution is warmed to 50° C. for 5 hours. The reaction is partitioned between water and ethyl acetate; the organic layer is washed with brine, dried over Na2SO4, and and concentrated to give a white solid. This crude material is dissolved in 20 mL of dry THF and cooled in an ice bath; and 250 mg (1.25 eq) of NaH (60% oil dispersion) is added portionwise. Gas evolves, leaving a foamy semisolid after 15 min. Additional THF (10 mL) is added to break up the foam, followed by 0.50 mL (1.6 eq) of iodomethane. The resultant mixture is stirred overnight, warming slowly to ambient temperature. The reaction mixture is added carefully to aqueous 1N H3PO4 (some gas evolves!), the resulting mixture is extracted with ethyl acetate. The organic layer is washed with brine and dried over Na2SO4. The crude product is purified by silica gel chromatography, eluting with a gradient of 0—>10% ethyl acetate/hexanes, providing 1.08 g (76% overall) of the title compound as a slightly yellowish oil.

reactant | 4-bromoaniline | 5.0 mmol, 0.86 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | di-tert-butyl dicarbonate | 5.0 mmol, 1.09 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaH | 250 mg, 1.25 eq | [H-].[Na+]
reactant | iodomethane | 0.50 mL, 1.6 eq | IC | CH3I
reactant | H3PO4 | 1N | OP(=O)(O)O | H3O4P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-Boc-N-methyl-4-bromoaniline | C(=O)(OC(C)(C)C)N(C1=CC=C(C=C1)Br)C | C12H16BrNO2
